US06180567B2
i-propyl 4-chloro-3-hydroximino-tetrahydrothiophene-2-carboxylate.
334 g (1.54 mol) of i-propyl 4-methyl-3-hydroximino-tetrahydrothiophene-2-carboxylate are dissolved in 5 litres of methyl tert-butyl ether and cooled using an ice bath. Hydrogen chloride is then—after the ice bath had been removed—introduced with stirring for two hours. The mixture is subsequently concentrated using water pump vacuum and the amorphous residue is crystallized from acetone.

reactant | i-propyl 4-methyl-3-hydroximino-tetrahydrothiophene-2-carboxylate | 1.54 mol, 334 g | CC1C(C(SC1)C(=O)OC(C)C)=NO | C9H15NO3S
reactant | Hydrogen chloride | Cl | ClH
solvent | methyl tert-butyl ether | 5 litres | C(C)(C)(C)OC | C5H12O
product | i-propyl 4-chloro-3-hydroximino-tetrahydrothiophene-2-carboxylate | ClC1C(C(SC1)C(=O)OC(C)C)=NO | C8H12ClNO3S
